US04237160
8-Fluoro-3-hydroxymethyl-10,11-dihydrodibenzo[b,f]thiepin 5,5-dioxide
Repeat the process of Example 6, substituting an equivalent quantity of 8-fluoro-10,11-dihydrodibenzo[b,f]thiepin-3-carboxylic acid 5,5-dioxide for the dibenzo[b,f]thiepin-3-carboxylic acid 5,5-dioxide, to obtain the title product (m.p., 116°-118° C.).

reactant | 8-fluoro-10,11-dihydrodibenzo[b,f]thiepin-3-carboxylic acid 5,5-dioxide | FC=1C=CC2=C(CCC3=C(S2(=O)=O)C=C(C=C3)C(=O)O)C1 | C15H11FO4S
reactant | dibenzo[b,f]thiepin-3-carboxylic acid 5,5-dioxide | C1=CC(=CC=2S(C3=C(C=CC21)C=CC=C3)(=O)=O)C(=O)O | C15H10O4S
product | 8-Fluoro-3-hydroxymethyl-10,11-dihydrodibenzo[b,f]thiepin 5,5-dioxide | FC=1C=CC2=C(CCC3=C(S2(=O)=O)C=C(C=C3)CO)C1 | C15H13FO3S
